US07179823B1
A mixture of ethyl 3-[1-(4-hydroxybenzyl)-4-phenyl-3-pyrrolyl]propionate (1.31 g), 2-picolyl chloride hydrochloride (0.73 g), potassium carbonate (0.69 g) and N,N-dimethylformamide (15 ml) was stirred at room temperature overnight. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and then concentrated. The residue was subjected to silica gel column chromatography, and an oily substance was obtained from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio). A mixture of the oily substance obtained, 1N aqueous sodium hydroxide solution (8 ml), tetrahydrofuran (8 ml) and ethanol (8 ml) was stirred at room temperature for 3 hours and the organic solvent was removed under reduced pressure. After adding water, the residue was neutralized by adding 1N hydrochloric acid. The colorless crystals obtained were collected by filtration to yield 3-[4-phenyl-1-[4-(2-pyridylmethoxy)benzyl]-3-pyrrolyl]propionic acid (1.06 g, yield: 69%). This was recrystallized from ethanol-water. Melting point: 109–110° C.

reactant | ethyl 3-[1-(4-hydroxybenzyl)-4-phenyl-3-pyrrolyl]propionate | 1.31 g | OC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C1 | C22H23NO3
reactant | 2-picolyl chloride hydrochloride | 0.73 g | Cl.N1=C(C=CC=C1)CCl
reactant | potassium carbonate | 0.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 1N, 8 ml | [OH-].[Na+]
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-[4-phenyl-1-[4-(2-pyridylmethoxy)benzyl]-3-pyrrolyl]propionic acid | 1.06 g, yield: 69% | C1(=CC=CC=C1)C=1C(=CN(C1)CC1=CC=C(C=C1)OCC1=NC=CC=C1)CCC(=O)O | C26H24N2O3
